US06468979B1
Preparation of 2-imidazol-1-ylthiazole-4-carbaldehyde (Intermediate F)
MnO2 (3.28 g; 37.75 mmol) was added to a solution of (2-imidazol-1-ylthiazol-4-yl)methanol (0.33 g; 1.82 mmol), prepared as described in the above step, in CH2Cl2 (30 ml).

reactant | (2-imidazol-1-ylthiazol-4-yl)methanol | 1.82 mmol, 0.33 g | N1(C=NC=C1)C=1SC=C(N1)CO | C7H7N3OS
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 37.75 mmol, 3.28 g | O=[Mn]=O
product | 2-imidazol-1-ylthiazole-4-carbaldehyde | N1(C=NC=C1)C=1SC=C(N1)C=O | C7H5N3OS
